US05858995
Sodium borohydride (7 mg) was added to a solution of 7-(2,6-dichlorobenzoylamino)-3-(1-ethoxycarbonyl)hydroxymethyl-2-methylbenzo[b]furan (76 mg) in methanol (3 ml) at 4° C. The mixture was stirred at ambient temperature for 3 hours and poured into cold water. The separated oil was extracted with ethyl acetate and the extract was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by colum chromatography on silica gel and the obtained oil was crystallized from diethyl ether to give 7-(2,6-dichlorobenzoylamino)-3-(1,2-dihydroxyethyl)-2-methylbenzo[b]furan (35 mg).

reactant | Sodium borohydride | 7 mg | [BH4-].[Na+]
reactant | 7-(2,6-dichlorobenzoylamino)-3-(1-ethoxycarbonyl)hydroxymethyl-2-methylbenzo[b]furan | 76 mg | ClC1=C(C(=O)NC2=CC=C(C3=C2OC(=C3C(=O)OCC)C)CO)C(=CC=C1)Cl | C20H17Cl2NO5
reactant | water | O | H2O
reactant | methanol | 3 ml | CO | CH4O
product | 7-(2,6-dichlorobenzoylamino)-3-(1,2-dihydroxyethyl)-2-methylbenzo[b]furan | 35 mg | ClC1=C(C(=O)NC2=CC=CC3=C2OC(=C3C(CO)O)C)C(=CC=C1)Cl | C18H15Cl2NO4
